US07078414B2
c) 3-Carboxy-4-cyclopropyl-1-(quinolin-4-yl)-1H-pyrrole
0.63 g (15 mmol) of lithium hydroxide monohydrate is added, at a temperature in the region of 20° C., to 1.3 g (4.4 mmol) of 4-cyclopropyl-3-methoxycarbonyl-1-(quinolin-4-yl)-1H-pyrrole dissolved in 50 mL of tetrahydrofuran and 50 mL of water. After stirring for 26 hours at the reflux temperature of the solvent, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in 20 mL of water and then triturated with 15 mL of 1 N hydrochloric acid. After the solid residue has been filtered off and dried at a temperature in the region of 50° C. at atmospheric pressure, 1.05 g of 3-carboxy-4-cyclopropyl-1-(quinolin-4-yl)-1H-pyrrole are obtained in the form of a cream-colored solid melting at 195° C.

reactant | lithium hydroxide monohydrate | 15 mmol, 0.63 g | O.[OH-].[Li+]
reactant | 4-cyclopropyl-3-methoxycarbonyl-1-(quinolin-4-yl)-1H-pyrrole | 4.4 mmol, 1.3 g | C1(CC1)C=1C(=CN(C1)C1=CC=NC2=CC=CC=C12)C(=O)OC | C18H16N2O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 3-Carboxy-4-cyclopropyl-1-(quinolin-4-yl)-1H-pyrrole | C(=O)(O)C1=CN(C=C1C1CC1)C1=CC=NC2=CC=CC=C12 | C17H14N2O2
